2162-03-09 07:51:00 Physician Resident Progress Note
Chief Complaint: Found down
   24 Hour Events:
 MULTI LUMEN - START [**2162-3-8**] 05:00 PM
   placed in [**Hospital1 5**] EW
 INVASIVE VENTILATION - START [**2162-3-8**] 05:30 PM
 ARTERIAL LINE - START [**2162-3-8**] 07:00 PM
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2162-3-8**] 10:18 PM
   Acyclovir - [**2162-3-8**] 11:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-3-8**] 11:18 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2162-3-8**] 10:18 PM
   Furosemide (Lasix) - [**2162-3-8**] 10:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-9**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 80 (73 - 82) bpm
   BP: 116/75(84) {102/75(83) - 125/86(95)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  7,482 mL
                                                                    302 mL
   PO:
             TF:
   IVF:
                                                                  2,482 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                  2,050 mL
   Urine:
                                                                    340 mL
                                                                  2,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,442 mL
                                                                 -1,748 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.38/41/103/23/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   241 K/uL
   12.3 g/dL
   98 mg/dL
   2.9 mg/dL
   23 mEq/L
   4.3 mEq/L
   36 mg/dL
   108 mEq/L
   142 mEq/L
   35.8 %
   17.9 K/uL
        [image002.jpg]
                             [**2162-3-8**]  05:24 PM
                             [**2162-3-8**]  06:01 PM
                             [**2162-3-8**]  09:07 PM
                             [**2162-3-8**]  10:19 PM
                             [**2162-3-9**]  04:27 AM
                             [**2162-3-9**]  04:40 AM
   WBC
   20.8
   17.8
   17.9
   Hct
   33.9
   35.9
   35.8
   Plt
   [**Telephone/Fax (3) 4547**]
   Cr
   2.5
   2.5
   2.9
   TropT
   0.82
   <0.01
   TCO2
   22
   22
   25
   Glucose
   161
   124
   98
   Other labs: PT / PTT / INR:17.2/29.2/1.6, CK / CKMB /
   Troponin-T:[**Numeric Identifier 4548**]/113/<0.01, ALT / AST:4257/6019, Alk Phos / T
   Bili:105/0.4, Amylase / Lipase:461/31, Differential-Neuts:81.0 %,
   Band:0.0 %, Lymph:14.0 %, Mono:5.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 4543**] ng/mL,
   Fibrinogen:455 mg/dL, Lactic Acid:2.7 mmol/L, Albumin:3.2 g/dL,
   LDH:5280 IU/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   27 y.o. male with hx of polysubstance abuse presentinng with
   obtundations, respiratory failure, and hypotension in the context of
   fever and some indications of increased tone.  Now intubated for
   hypoxic respiratory failure and being broadly treated for serotonin
   syndrome and pneumonia.
   1)Obtundation: Ultimate etiology is not clear at this time.  Major
   concerns include serotonin syndrome due to trazodone/SSRI (given
   diaphoresis, HTN, and clonus) vs drug intoxication (less likely given
   relatively unimpressive tox screen) vs infection.  Seizure could also
   cause post-ictal mental status changes.  Meningitis/encephalitis
   extremely unlikely given no pleiocytosis but cannot exclude HSV w/o PCR
   so will treat empirically for the moment.  Finally, it is possible
   respiratory failure could have caused obtundation though seems unlikely
   in an otherwise healthy young man.  Consumption of non ethanol alcohols
   was also considered but no osmolal gap suggesting this.
   -cyproheptidine 4 mg Q6hrs for serotonin syndrome
   -acyclovir empirically for consern HSV meningitis
   -vanc/zosyn/levo for possible PNA given bilateral infiltrates and fever
   in the ED in this critically ill gentlman
   -F/U tox reccs
   2)Shock: The patient had hypotension today after receiving his propofol
   sedation.  Possible etiologies of his shock would include vasodilation
   vs cardiogenic vs hypovolemic.  Given the patient's appearance and
   bilateral infiltrates/enlarged hila it seems unlikely he is hypovolemic
   though he could have been initially.  Cardiogenic shock also seems
   unlikely given he was quickly weaned off pressors after arrival to the
   floor and few etiologies of cardiogenic shock would resolve that
   quickly without specific management.  Shock due to vasodilatory
   phenomena seem most likely given exclusion of other types.  Propofol
   can cause profound hypotension in certain circumstances and the fact
   that hypotension didn't occur until sedation would support this.
   Autonomic instability due to serotonin syndrome could also potentially
   contribute to rapid transition from hypertension to hypotension.
   Finally, given fever/leukocytosis there is concern for septic shock.
   -blood cx, broad spectrum abx
   -cyprohepatidine
   -Echo in AM
   3) Hypoxemic respiratory failure: Patient had an unwitnessed event
   leading to loss of consciousness.  Most processed that cause this
   (intoxication, seizure, etc..) can lead to periods of decreased airway
   protection therefore high level of concern for aspiration.  Appearance
   of CXR could be consistent with aspiration pneumonitis, vs PNA, vs
   edema.  Will cover with antibiotics given fever and hold off on
   diuresis given hypotension earlier.  Sputum cultures suggest aspiration
   (oropharyngeal flora in endotracheal specimen).  Patient is currently
   oxygenating and ventilating well on reasonable ventilator settings
   particularly given previous need for 100% O2.
   -Wean FiO2 and then PEEP
   -Vanco/Pipercillin-Tazobactam for health care associated pneumonia
   (patient has spent around 48 hours in health care settings/borderline
   call but covering due to high acuity).  Also using levofloxacin to
   cover atypicals.
   -sputum cultures
   -urine legionella
   -Rapid flu antigen test and viral culture
   4) Renal failure: Patient nearly anuric since arrival to floor.
   Elevated CK and blood/rbc dissociation on UA suggestive or
   rhabdomyolysis particularly given this is an otherwise healthy young
   man with presumably a normal Cr before.  Still, nephrology thinks CK
   not high enough for this degree of failure and time course not exactly
   appropriate.  Granular casts of unclear significance.
   -Renal consult in AM
   -Urine lytes, protein
   -Attempt 100 mg IV furosemide * 1 for trial of diuresis on renal recc
   -Avoid nephrotoxins, renally dose meds
   5)Fever: Concern for infection of course is primarily and will be
   worked up per above.  Also possibly from serotonin syndrome,
   vasculitis, etc...
   -Monitor fever and leukocytosis curves.
   -Consider CT to look for occult abcess if repeated fevers once stable
   6) Skin: Rashes on medial knees appear most consistent with
   friction/pressure induced injury.  Vesicles could suggest herpes but
   are not typical and not particularly painful it seems.
   -unroof vesicle and send for viral cutlure.
   7) Neuro: Unclear on significance of bilateral clonus w/o other
   neurologic abnormalities.  Ct head slightly abnormal and patient's MS
   is poor.
   -Neuro consult in the AM
   8) Prophylaxis: Heparin SC, famotidine
   9) FEN: NPO for now, OG and tube feeds tomorrow
   10) Code Status: Presumed full
   11) Dispo: ICU for moment
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RHABDOMYOLYSIS
 POISONING / OVERDOSE, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2162-3-8**] 05:00 PM
   16 Gauge - [**2162-3-8**] 05:19 PM
   Arterial Line - [**2162-3-8**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-03-10 07:56:00 Physician Resident Progress Note
Chief Complaint: Found down
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2162-3-9**] 10:34 AM
 ULTRASOUND - At [**2162-3-9**] 11:00 AM
   ultrasound of kidneys.
 MULTI LUMEN - STOP [**2162-3-9**] 05:01 PM
   placed in [**Hospital1 5**] EW
   -contact[**Name (NI) **] by [**Name (NI) **] [**Name (NI) 4576**], attending physician at [**Name9 (PRE) 250**]. She
   will accept the patient back when/if better. Phone number: [**Telephone/Fax (1) 4577**]
   -d/c acyclovir, cont vanco/unasyn/levo
   - gave lasix 100IV X1 in evening when UOP dropped to 80cc/hr. next hr
   was 1000
   -Per renal, ARF likely combo ATN and rhabdo
   - blister on inside left knee unroofed and sent for viral cx.
   -DFA for influenza and urine for legionella neg
   -labetalol started and uptitrated to 300mg PO TID
   - on PM labs, LFTS and CK trending down. Cr rising to 3.7 from 2.9
   - sedation shut off in am. Pt coughing but not consistently responding
   to pain
   -TTE: Mild symmetric left ventricular hypertrophy with normal cavity
   sizes and regional/global biventricular systolic function. Mild
   pulmonary artery systolic hypertension. LVEF >60%
   -plan to get peripherals then perhaps pull CVL
   - no further toxicology notes.
   - d/c'd cyproheptadine for serotonin sx
   -Midnight down 5.5L for the day- ordered 1L NS at 150cc/hr
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-3-8**] 10:18 PM
   Acyclovir - [**2162-3-8**] 11:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-3-8**] 11:18 PM
   Ampicillin - [**2162-3-9**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2162-3-9**] 07:00 PM
   Famotidine (Pepcid) - [**2162-3-9**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2162-3-9**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-10**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 81 (75 - 93) bpm
   BP: 116/75(84) {0/0(0) - 0/0(0)} mmHg
   RR: 14 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    904 mL
                                                                  1,062 mL
   PO:
             TF:
   IVF:
                                                                    544 mL
                                                                  1,062 mL
   Blood products:
   Total out:
                                                                  6,490 mL
                                                                  1,665 mL
   Urine:
                                                                  6,490 mL
                                                                  1,665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,586 mL
                                                                   -603 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 816 (711 - 875) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.39/41/99.[**Numeric Identifier **]/25/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal), (S2:
   Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Rash: unchanged erythematous areas on medial
   surface of knees
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed, clonus in ankles bilaterally, babinski on left (no reflex
   on right)
   Labs / Radiology
   261 K/uL
   13.0 g/dL
   100 mg/dL
   4.2 mg/dL
   25 mEq/L
   3.4 mEq/L
   47 mg/dL
   105 mEq/L
   146 mEq/L
   37.2 %
   21.3 K/uL
        [image002.jpg]
                             [**2162-3-8**]  06:01 PM
                             [**2162-3-8**]  09:07 PM
                             [**2162-3-8**]  10:19 PM
                             [**2162-3-9**]  04:27 AM
                             [**2162-3-9**]  04:40 AM
                             [**2162-3-9**]  11:50 AM
                             [**2162-3-9**]  12:01 PM
                             [**2162-3-9**]  03:02 PM
                             [**2162-3-9**]  04:02 PM
                             [**2162-3-10**]  04:00 AM
   WBC
   17.8
   17.9
   21.3
   Hct
   35.9
   35.8
   37.2
   Plt
   227
   241
   261
   Cr
   2.5
   2.9
   3.7
   4.2
   TropT
   0.82
   <0.01
   TCO2
   22
   22
   25
   25
   26
   Glucose
   124
   98
   134
   123
   100
   Other labs: PT / PTT / INR:15.7/27.3/1.4, CK / CKMB /
   Troponin-T:[**Numeric Identifier 4578**]/113/<0.01, ALT / AST:3708(4029)/2217(3673), Alk Phos /
   T Bili:123(118)/0.6(0.6), Amylase / Lipase:461/31,
   Differential-Neuts:85.5 %, Band:0.0 %, Lymph:9.6 %, Mono:4.5 %, Eos:0.2
   %, D-dimer:[**Numeric Identifier 4543**] ng/mL, Fibrinogen:455 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:3.2 g/dL, LDH:2137 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.8 mg/dL
   Imaging: Renal U/S:
   IMPRESSION:
   1. Normal examination of the kidneys. No evidence for hydronephrosis.
   2. Echogenic liver consistent with fatty infiltration. Please note that
   other forms of liver disease including significant fibrosis/cirrhosis
   cannot
   be excluded on the basis of this study.
   TTE:
   IMPRESSION: Mild symmetric left ventricular hypertrophy with normal
   cavity sizes and regional/global biventricular systolic function. Mild
   pulmonary artery systolic hypertension.
   Assessment and Plan
   27 y.o. male with hx of polysubstance abuse presentinng with
   obtundations, respiratory failure, and hypotension in the context of
   fever and some indications of increased tone.  Now intubated for
   hypoxic respiratory failure and being broadly treated for serotonin
   syndrome and pneumonia.
   1)Obtundation: Ultimate etiology is not clear at this time.  Major
   concerns include serotonin syndrome, intoxication, or post-ictal
   state.  Given extremely few cells in CSF will d/c empiric acyclovir
   therapy for HSV due to risk this poses to renal function.   Will
   continue to treat empirically for serotonin syndrome and monitor.
   -cyproheptidine 4 mg Q6hrs for serotonin syndrome
   - STOP acyclovir empirically for consern HSV meningitis
   -F/U toxicology reccs
   -Attempt to wean sedation and reassess mental status
   2)Shock:  The patient was hypotensive in the ED but only after
   receiving propofol sedation.  This completely resolved and he is in
   fact hypertensive off pressor support at this time.  Presumably his
   initial hypotension was iatrogenic.   In the short term we would prefer
   mild hypertension to hypotension in this gentleman but given MAP
s >100
   we will treat.
   -labetalol given concern for past cocaine abuse and unapposed B
   blockade
   -Echocardiogram to evaluate EF
   3) Hypoxemic respiratory failure: Most likely etiologies include
   aspiration pneumonitis, vs PNA, vs edema.  We will cover for aspiration
   pneumonia and CA-MRSA with antibiotics though there are definitely
   other potential etiologies for fever in this patient.    Patient is
   currently oxygenating and ventilating well on reasonable ventilator
   settings particularly given previous need for 100% O2.
   -Wean FiO2 and then PEEP as tolerated
   -Vanco/Ampicillin-Sublactam for aspiration pneumonia, we will d/c
   levofloxacin as legionella antigen negative and this patient would not
   be typical epidemiology of this pathogen; we will also d/c pipercillin
   tazobactam as he seems to be improving with diuresis reducing concern
   pneumonia is the primary causative [**Doctor Last Name **] of pneumonia
   -sputum cultures
   -Rapid flu antigen test and viral culture
    4) Renal failure: Patient was nearly anuric yesterday.  Elevated CK
   and blood/rbc dissociation on UA suggestive or rhabdomyolysis
   particularly given this is an otherwise healthy young man with
   presumably a normal Cr before.   He has responded to diuretic therapy
   with brisk urine output and we will continue this diuresis as long as
   possible to flush and protect the kidneys.
   -nephrology is following
   -bolus dose furosemide if UOP drops below 100 cc/hr
   -Avoid nephrotoxins, renally dose meds
    5)Fever: Concern for infection of course is primarily and will be
   worked up per above.  Also possibly from serotonin syndrome,
   vasculitis, etc...
   -Monitor fever and leukocytosis curves.
   -Consider CT to look for occult abcess if repeated fevers once stable
   6) Skin: Rashes on medial knees appear most consistent with
   friction/pressure induced injury.  Vesicles could suggest herpes but
   are not typical and not particularly painful it seems.
   -unroof vesicle and send for viral cutlure.
   7) Neuro: Unclear on significance of bilateral clonus w/o other
   neurologic abnormalities.  Ct head slightly abnormal and patient's MS
   is poor.  Will await evaluation of non-sedated mental status before
   proceeding to neuro consult.
   8) Prophylaxis: Heparin SC, famotidine
   9) FEN: NPO for now
   10) Code Status: Presumed full
   11) Dispo: ICU for moment
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RHABDOMYOLYSIS
 POISONING / OVERDOSE, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2162-3-8**] 05:19 PM
   Arterial Line - [**2162-3-8**] 07:00 PM
   20 Gauge - [**2162-3-9**] 03:45 PM
   18 Gauge - [**2162-3-9**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2162-03-11 07:58:00 Physician Resident Progress Note
Chief Complaint: Found Down
   24 Hour Events:
 SPUTUM CULTURE - At [**2162-3-10**] 08:00 AM
 FEVER - 101.7
F - [**2162-3-11**] 04:00 AM
   -Put on PS 5/5 in a.m.  Remained off sedation for near entirety of day
   (was briefly given propofol for agitation in evening)
   -Was initially minimally responsive in a.m. but gradually became
   slightly more responsive over course of day; still very sedated overall
   -Increased labetalol to 400 tid b/c of htn
   -BCx/UCx this a.m. for temp of 101.7
   Patient unable to provide history: Encephalopathy, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-3-8**] 10:18 PM
   Acyclovir - [**2162-3-8**] 11:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-3-8**] 11:18 PM
   Ampicillin - [**2162-3-9**] 10:00 PM
   Vancomycin - [**2162-3-10**] 09:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2162-3-10**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-3-10**] 09:00 AM
   Famotidine (Pepcid) - [**2162-3-10**] 07:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-11**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 81 (76 - 86) bpm
   BP: 116/75(84) {0/0(0) - 0/0(0)} mmHg
   RR: 17 (14 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,277 mL
                                                                    858 mL
   PO:
             TF:
   IVF:
                                                                  3,187 mL
                                                                    778 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    420 mL
   Urine:
                                                                  2,555 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    722 mL
                                                                    438 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 670 (670 - 777) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.47/37/114/26/3
   Ve: 8.8 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL, looks to left when opens spontaneously
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, Rash: stable
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Increased, clonus, possible posturing w/suctioning
   Labs / Radiology
   265 K/uL
   11.7 g/dL
   119 mg/dL
   4.2 mg/dL
   26 mEq/L
   3.4 mEq/L
   45 mg/dL
   111 mEq/L
   148 mEq/L
   33.3 %
   14.0 K/uL
        [image002.jpg]
                             [**2162-3-9**]  04:40 AM
                             [**2162-3-9**]  11:50 AM
                             [**2162-3-9**]  12:01 PM
                             [**2162-3-9**]  03:02 PM
                             [**2162-3-9**]  04:02 PM
                             [**2162-3-10**]  04:00 AM
                             [**2162-3-10**]  08:39 AM
                             [**2162-3-10**]  10:48 AM
                             [**2162-3-11**]  04:12 AM
                             [**2162-3-11**]  04:31 AM
   WBC
   21.3
   14.0
   Hct
   37.2
   33.3
   Plt
   261
   265
   Cr
   3.7
   4.2
   4.2
   TCO2
   25
   25
   26
   28
   27
   28
   Glucose
   134
   123
   100
   119
   Other labs: PT / PTT / INR:15.8/27.9/1.4, CK / CKMB / Troponin-T:5360
   ([**Numeric Identifier 4578**])/113/<0.01, ALT / AST:3089 (3708)/1277 (2217), Alk Phos / T
   Bili:114 (121)/0.7, Amylase / Lipase:461/31, Differential-Neuts:76.4 %,
   Band:0.0 %, Lymph:16.2 %, Mono:6.2 %, Eos:0.8 %, D-dimer:[**Numeric Identifier 4543**] ng/mL,
   Fibrinogen:455 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.2 g/dL,
   LDH:2137 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Microbiology: DFA for Influenza A and B is negative
   Legionella urinary antigen (-)
   Assessment and Plan
   27 y.o. male with hx of polysubstance abuse presentinng with
   obtundations, respiratory failure, and hypotension in the context of
   fever and some indications of increased tone.  Now intubated for
   hypoxic respiratory failure and with persistently altered MS.
   1)Obtundation: Ultimate etiology is not clear at this time.  Major
   concerns include serotonin syndrome, intoxication, or post-ictal
   state.  Given extremely few cells in CSF minimal concern for
   meningitis/encephalitis.  Mental status mildly improved since last
   night but still not consistently purposeful.  Concern for anoxic brain
   injury.
   -completed cyproheptidine treatment
   -off sedation
   -if mental status not consistently improving CT head to rule out edema
   or acute process, proceed to neuro consult and MRI/EEG
   2)Shock:  The patient was hypotensive in the ED but only after
   receiving propofol sedation.  This completely resolved and he is in
   fact hypertensive off pressor support at this time.  Presume
   hypotension was iatrogenic.  .
   -labetalol given concern for past cocaine abuse and unapposed B
   blockade
   -Echocardiogram with normal EF
    3) Hypoxemic respiratory failure: Most likely etiologies include
   aspiration pneumonitis, vs PNA, vs edema.  We will cover for aspiration
   pneumonia and CA-MRSA with antibiotics though there are definitely
   other potential etiologies for fever in this patient.    Patient is
   currently oxygenating and ventilating well on reasonable ventilator
   settings particularly given previous need for 100% O2.   Now doing well
   on pressure support.  Primary reason for continued ventilation is
   mental status.
   -Vanco/Ampicillin-Sublactam for aspiration pneumonia
   -sputum cultures
   -Rapid flu antigen test negative
    4) Renal failure: Patient with good urine output but Cr continues to
   rise.  Presumed etiology is ATN and rhabdomyoloysis.
   -Goal UOP of 150-200cc/hr
   -D5W given free water deficit and careful to avoid hypovolemia in
   setting of self-diuresis
    5)Fever: Concern for infection of course is primarily and will be
   worked up per above.  Also possibly from serotonin syndrome,
   vasculitis, etc...
   -Monitor fever and leukocytosis curves.
    6) Skin: Rashes on medial knees appear most consistent with
   friction/pressure induced injury.  Vesicles could suggest herpes but
   are not typical and not particularly painful it seems.
   -f/u culture from vesicle
    7) Neuro: Unclear on significance of bilateral clonus w/o other
   neurologic abnormalities.  Ct head slightly abnormal and patient's MS
   is poor.  Neuro consult in AM and imaging per above if not improving
   dramatically over course of day.
    8) Prophylaxis: Heparin SC, famotidine
    9) FEN: NPO for now
    10) Code Status: Presumed full
    11) Dispo: ICU for moment
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RHABDOMYOLYSIS
 POISONING / OVERDOSE, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2162-3-8**] 05:19 PM
   Arterial Line - [**2162-3-8**] 07:00 PM
   20 Gauge - [**2162-3-9**] 03:45 PM
   18 Gauge - [**2162-3-9**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2162-03-12 07:41:00 Physician Resident Progress Note
Chief Complaint: Altered MS, Respiratory failure
   24 Hour Events:
 URINE CULTURE - At [**2162-3-11**] 12:16 PM
 MULTI LUMEN - START [**2162-3-11**] 01:51 PM
 PAN CULTURE - At [**2162-3-12**] 04:45 AM
   -Persistently altered mental status so got neuro consult, they are
   somewhat concerned about focality (left more responsive than right) and
   asked for EEG and MRI/MRA tomorrow
   -CT Head just showed increased signal in globus pallidus
   -Got right sided IJ
   -Bit through OG so traded out for NG
   -Bit through ET tube so replaced by anesthesiology and got bite block
   and more sedation for the night, put on assist control til about 5:00
   am then converted back to spontaneous breathing
   -Febrile in AM on [**3-12**] (100.4 at 4:54) so cultured
   -Started on tube feeds and free water boluses
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-3-10**] 09:00 AM
   Ampicillin - [**2162-3-11**] 04:02 PM
   Ampicillin/Sulbactam (Unasyn) - [**2162-3-12**] 04:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-3-11**] 04:03 PM
   Famotidine (Pepcid) - [**2162-3-11**] 08:30 PM
   Propofol - [**2162-3-11**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-12**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38
C (100.4
   HR: 77 (72 - 89) bpm
   BP: 146/71(92) {120/64(83) - 159/94(109)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 102 kg
   Height: 72 Inch
    CVP: 4 (0 - 9)mmHg
   Total In:
                                                                  2,574 mL
                                                                    934 mL
   PO:
   TF:
                                                                     44 mL
                                                                    119 mL
   IVF:
                                                                  1,681 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    655 mL
   Urine:
                                                                  1,490 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,084 mL
                                                                    279 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 751 (629 - 5,749) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.46/39/145/26/4
   Ve: 9.7 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL, pupils midline
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: bilateral rhonchi)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: stable
   Neurologic: Responds to: Not assessed, Movement: Non -purposeful, Tone:
   Not assessed, responds intermittently to noxious stimuli, clonus
   continues but less dramatic in feet (2-3 beats), babinski unclear.
   [**Name2 (NI) 358**] / Radiology
   239 K/uL
   10.9 g/dL
   100 mg/dL
   3.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   47 mg/dL
   113 mEq/L
   148 mEq/L
   31.4 %
   14.8 K/uL
        [image002.jpg]
                             [**2162-3-9**]  03:02 PM
                             [**2162-3-9**]  04:02 PM
                             [**2162-3-10**]  04:00 AM
                             [**2162-3-10**]  08:39 AM
                             [**2162-3-10**]  10:48 AM
                             [**2162-3-11**]  04:12 AM
                             [**2162-3-11**]  04:31 AM
                             [**2162-3-11**]  05:03 PM
                             [**2162-3-12**]  04:41 AM
                             [**2162-3-12**]  05:22 AM
   WBC
   21.3
   14.0
   14.8
   Hct
   37.2
   33.3
   31.4
   Plt
   261
   265
   239
   Cr
   3.7
   4.2
   4.2
   3.9
   3.8
   TCO2
   26
   28
   27
   28
   29
   Glucose
   123
   100
   119
   105
   100
   Other [**Year (4 digits) **]: PT / PTT / INR:15.3/27.8/1.3, CK / CKMB /
   Troponin-T:2818(5360)/113/<0.01, ALT / AST:[**2097**](3089)/446(1277), Alk
   Phos / T Bili:100 (114)/0.6, Amylase / Lipase:158/54,
   Differential-Neuts:76.4 %, Band:0.0 %, Lymph:16.2 %, Mono:6.2 %,
   Eos:0.8 %, D-dimer:[**Numeric Identifier 4543**] ng/mL, Fibrinogen:455 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:3.0 g/dL, LDH:844 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   27 y.o. male with hx of polysubstance abuse presentinng with
   obtundations, respiratory failure, and hypotension in the context of
   fever and some indications of increased tone.  Now respiratory issues
   have largely resolved and doing well on pressure support, but no
   clearly purposeful movements and continuing to be encephalopathic.
    1)Obtundation: Seen by neurology who agree his picture is most
   consistent with anoxic brain injury and prognosis is not favorable.
   Some concern for laterality of findings so we are obtaining an MRI head
   today and an EEG to rule out epileptiform activity.
   -CT repeated this AM to look for edema post anoxic injury.  Not a great
   deal of additional edema on our prelim eval.
   -off sedation as much as possible to assess mental status, propofol
   boluses PRN
   -Neuro consult
    2)Shock:  The patient was hypotensive in the ED but only after
   receiving propofol sedation.  This completely resolved and he is in
   fact hypertensive off pressor support at this time.  Presume
   hypotension was iatrogenic.  Now consistently hypertensive.
   -labetalol given concern for past cocaine abuse and unapposed B blockad
   -Echocardiogram with normal EF
     3) Hypoxemic respiratory failure: Most likely etiologies include
   aspiration pneumonitis, vs PNA, vs edema.  We will cover for aspiration
   pneumonia and CA-MRSA with antibiotics though there are definitely
   other potential etiologies for fever in this patient.    Patient is
   currently oxygenating and ventilating well on reasonable ventilator
   settings particularly given previous need for 100% O2.   Now doing well
   on pressure support.  Primary reason for continued ventilation is
   mental status.
   -Ampicillin-Sublactam for aspiration pneumonia, stop vancomycin as no
   S. aureus on sputum cultures
    4) Renal failure: Patient with good urine output but Cr continues to
   rise.  Presumed etiology is ATN and rhabdomyoloysis.
   -Goal UOP of 150-200cc/hr
   -Free water boluses to correct hypernatremia, repeat evening lytes
    5)Fever: Concern for infection of course is primarily and will be
   worked up per above.  Also possibly from serotonin syndrome,
   vasculitis, neurogenic fever, etc
   -Monitor fever and leukocytosis curves.
    6) Skin: Rashes on medial knees appear most consistent with
   friction/pressure induced injury.  Vesicles could suggest herpes but
   are not typical and not particularly painful it seems.
   -f/u culture from vesicle
    7) Neuro: Unclear on significance of bilateral clonus w/o other
   neurologic abnormalities.  Ct head slightly abnormal and patient's MS
   is poor.  Neuro consult in AM and imaging per above if not improving
   dramatically over course of day.
    8) Prophylaxis: Heparin SC, famotidine
    9) FEN: NPO for now, will get tube feeding recommendations/nutrition
   consult
   10)Access: PIV
s, A-line
   -given concern about stability of PIV
s and inability to place PICC due
   to fevers will place CVL this afternoon
    10) Code Status: Presumed full
    11) Dispo: ICU for moment
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RHABDOMYOLYSIS
 POISONING / OVERDOSE, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2162-3-8**] 07:00 PM
   18 Gauge - [**2162-3-9**] 04:00 PM
   Multi Lumen - [**2162-3-11**] 01:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2162-03-13 06:55:00 Physician Resident Progress Note
Chief Complaint: 27 y.o. male with hx of polysubstance abuse
   presentinng with obtundations, respiratory failure, and hypotension in
   the context of fever and some indications of increased tone.  Now
   respiratory issues have largely resolved and doing well on pressure
   support, but no clearly purposeful movements and continuing to be
   encephalopathic.
   24 Hour Events:
 EEG - At [**2162-3-12**] 01:43 PM
 INVASIVE VENTILATION - STOP [**2162-3-12**] 04:19 PM
 FEVER - 102.2
F - [**2162-3-12**] 08:00 AM
   -Fam mtg- explained gravity of anoxic brain injury.
   -Extubated in pm. Plan for reintubation PRN then would d/w family trach
   vs CMO. Post extubation gas 7.41/40/118/26
   -MRI head : Extensive areas of restricted diffusion involving the white
   matter, corpus callosum, both globus pallidus and right hippocampus
   indicative of acute infarct/ischemia likely due to global hypoxia.
   -EEG prelim with diffuse slowing, nothing focal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-3-10**] 09:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2162-3-12**] 09:51 AM
   Ampicillin - [**2162-3-13**] 04:20 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2162-3-12**] 07:57 PM
   Heparin Sodium (Prophylaxis) - [**2162-3-12**] 10:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-13**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.4
C (101.1
   HR: 85 (66 - 85) bpm
   BP: 172/90(115) {139/71(90) - 172/94(118)} mmHg
   RR: 14 (10 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 102 kg
   Height: 72 Inch
    CVP: 4 (2 - 10)mmHg
   Total In:
                                                                  2,758 mL
                                                                    929 mL
   PO:
   TF:
                                                                    315 mL
   IVF:
                                                                    772 mL
                                                                    899 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                    740 mL
   Urine:
                                                                  2,435 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    323 mL
                                                                    189 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 878 (878 - 878) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.41/40/118//0
   Ve: 11.2 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   249 K/uL
   11.0 g/dL
   100 mg/dL
   3.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   47 mg/dL
   114 mEq/L
   149 mEq/L
   31.1 %
   14.5 K/uL
        [image002.jpg]
                             [**2162-3-10**]  04:00 AM
                             [**2162-3-10**]  08:39 AM
                             [**2162-3-10**]  10:48 AM
                             [**2162-3-11**]  04:12 AM
                             [**2162-3-11**]  04:31 AM
                             [**2162-3-11**]  05:03 PM
                             [**2162-3-12**]  04:41 AM
                             [**2162-3-12**]  05:22 AM
                             [**2162-3-12**]  08:27 PM
                             [**2162-3-13**]  04:07 AM
   WBC
   21.3
   14.0
   14.8
   14.5
   Hct
   37.2
   33.3
   31.4
   31.1
   Plt
   261
   265
   239
   249
   Cr
   4.2
   4.2
   3.9
   3.8
   TCO2
   28
   27
   28
   29
   26
   Glucose
   100
   119
   105
   100
   Other labs: PT / PTT / INR:15.3/27.8/1.3, CK / CKMB /
   Troponin-T:2818/113/<0.01, ALT / AST:[**2097**]/446, Alk Phos / T
   Bili:100/0.6, Amylase / Lipase:158/54, Differential-Neuts:76.4 %,
   Band:0.0 %, Lymph:16.2 %, Mono:6.2 %, Eos:0.8 %, D-dimer:[**Numeric Identifier 4543**] ng/mL,
   Fibrinogen:455 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:844
   IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   27 y.o. male with hx of polysubstance abuse presentinng with
   obtundations, respiratory failure, and hypotension in the context of
   fever and some indications of increased tone.  Now respiratory issues
   have largely resolved and doing well on pressure support, but no
   clearly purposeful movements and continuing to be encephalopathic.
   1)Obtundation: Seen by neurology who agree his picture is most
   consistent with anoxic brain injury and prognosis is not favorable.
   Some concern for laterality of findings so we are obtaining an MRI head
   today and an EEG to rule out epileptiform activity.
   -f/u EEG and MRI
   -Presumably the primary injury is anoxic brain injury and expect
   minimal recovery.  After final studies and neuro input will discuss
   with family implications of further decisions.  Patient likely to
   continue to breathe adequately if extubated (though would probably be
   chronic aspiration risk) but will address whether to re-intubate and/or
   proceed with trach
   -Minimize sedation
   2)Shock:  The patient was hypotensive in the ED but only after
   receiving propofol sedation.  This completely resolved and he is in
   fact hypertensive off pressor support at this time.  Presume
   hypotension was iatrogenic.  Now inclined toward hypertension but
   improved with up-titration of labetalol
   -Continue labetalol
   3) Hypoxemic respiratory failure: Most likely etiologies include
   aspiration pneumonitis, vs PNA.  CXR currently resolving and patient is
   needing minimal respiratory support.  Primary reason for continued
   ventilation is mental status.
   -Ampicillin-Sublactam for aspiration pneumonia for seven day course
   4) Renal failure: Cr. Continuing to fall though urine output falling as
   well, expect resolution of injury from rhabdo/ATN but will continue to
   monitor.
   -Free water boluses to correct hypernatremia, repeat evening lytes
   5)Fever: Concern for infection of course is primarily and will be
   worked up per above.  Also possibly from serotonin syndrome,
   vasculitis, neurogenic fever, etc
  Given improving lung findings and
   broad abx coverage highest suspicion for central fever now.
   -Monitor fever and leukocytosis curves.
   6) Skin: Rashes on medial knees appear most consistent with
   friction/pressure induced injury.  Vesicles could suggest herpes but
   are not typical and not particularly painful it seems.
   -f/u culture from vesicle
   7) Hypernatremia: Possibly due to free water deficit and saline
   repletion but given persistently high despite free water boluses
   yesterday and known intracranial injury we are concerned for SIADH.
   -Recheck serum and urine osms, urine lytes
   8) Prophylaxis: Heparin SC, famotidine
   9) FEN: Tube feeds
   10)Access: R IJ, A-line, PIV
   11) Code Status: Presumed full
   11) Dispo: ICU for moment
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2162-3-8**] 07:00 PM
   18 Gauge - [**2162-3-9**] 04:00 PM
   Multi Lumen - [**2162-3-11**] 01:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2162-03-13 11:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   27 y/o M admitted from detox unit with unknown drug overdose, seizures
   (LP neg), likely aspiration PNA with severe rhabdo from being down.
   Intubated and briefly on pressors.  Initial high FiO2/PEEP likely [**3-1**]
   volume overload, now weaned down with diuresis.  Remained intubated for
   mental status - MRI with diffuse anoxic brain injury - after family
   meeting decided to extubate yesterday before commiting to trach/peg.
   On unasyn for aspiration PNA, but persistently febrile.
   24 Hour Events:
 EEG - At [**2162-3-12**] 01:43 PM - diffuse slowing
 INVASIVE VENTILATION - STOP [**2162-3-12**] 04:19 PM
 FEVER - 102.2
F - [**2162-3-12**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2162-3-12**] 09:51 AM
   Ampicillin - [**2162-3-13**] 04:20 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2162-3-12**] 07:57 PM
   Heparin Sodium (Prophylaxis) - [**2162-3-12**] 10:12 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-13**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.9
C (100.3
   HR: 73 (66 - 92) bpm
   BP: 160/84(106) {145/74(97) - 178/98(123)} mmHg
   RR: 17 (10 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 102 kg
   Height: 72 Inch
   CVP: 4 (2 - 10)mmHg
   Total In:
                                                                  2,758 mL
                                                                  1,135 mL
   PO:
   TF:
                                                                    315 mL
   IVF:
                                                                    772 mL
                                                                  1,105 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                  1,300 mL
   Urine:
                                                                  2,435 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    323 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 878 (878 - 878) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.48/37/86.[**Numeric Identifier 253**]/24/3
   Ve: 11.2 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Rash: Improving
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Not assessed, Blink reflex,
   Labs / Radiology
   11.0 g/dL
   249 K/uL
   108 mg/dL
   3.4 mg/dL
   24 mEq/L
   4.4 mEq/L
   49 mg/dL
   115 mEq/L
   149 mEq/L
   31.1 %
   14.5 K/uL
        [image002.jpg]
                             [**2162-3-10**]  08:39 AM
                             [**2162-3-10**]  10:48 AM
                             [**2162-3-11**]  04:12 AM
                             [**2162-3-11**]  04:31 AM
                             [**2162-3-11**]  05:03 PM
                             [**2162-3-12**]  04:41 AM
                             [**2162-3-12**]  05:22 AM
                             [**2162-3-12**]  08:27 PM
                             [**2162-3-13**]  04:07 AM
                             [**2162-3-13**]  10:47 AM
   WBC
   14.0
   14.8
   14.5
   Hct
   33.3
   31.4
   31.1
   Plt
   265
   239
   249
   Cr
   4.2
   3.9
   3.8
   3.4
   TCO2
   28
   27
   28
   29
   26
   28
   Glucose
   119
   105
   100
   108
   Other labs: PT / PTT / INR:15.1/30.4/1.3, CK / CKMB /
   Troponin-T:2818/113/<0.01, ALT / AST:1287/201, Alk Phos / T
   Bili:98/0.6, Amylase / Lipase:158/54, Differential-Neuts:76.4 %,
   Band:0.0 %, Lymph:16.2 %, Mono:6.2 %, Eos:0.8 %, D-dimer:[**Numeric Identifier 4543**] ng/mL,
   Fibrinogen:455 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:831
   IU/L, Ca++:8.1 mg/dL, Mg++:2.6 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   27 y/o M admitted from detox unit with unknown drug overdose, seizures
   (LP neg), likely aspiration PNA with severe rhabdo from being down.
   Now with evidence of anoxic brain injury.  Extubated overnight.
   #Anoxic brain injury: answering questions today! Able to recognize
   family at bedside.
   -Continue to assess mental status, strict aspiration precautions
   -[**Last Name (un) **] [**Doctor Last Name **] breathing pattern
 will follow gasses and reintubate if
   needed.
   #Hypoxemic respiratory failure: Likely [**3-1**] aspiration PNA.
   - Continue Augmentin for aspiration PNA.
   - Stable off vent.
   # Fever: Unclear etiology
 aspiration pneumonia/pneumonitis vs
   neurogenic.  No evidence of eosinophilia/drug rash.
   - Follow fever curve/ cultures
   # Renal failure: Likely [**3-1**] ATN/rhabdo
   - Free water boluses to correct hypernatremia
   - Follow
   #Liver dysfunction: Presumed due to rhabo. Improving.
   - Follow.
   All other issues per resident note.
   ICU Care
   Nutrition:  tube feeds for now will assess S/S early next week
   Glycemic Control:
   Lines:
   Arterial Line - [**2162-3-8**] 07:00 PM
   18 Gauge - [**2162-3-9**] 04:00 PM
   Multi Lumen - [**2162-3-11**] 01:51 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments: Aspiration precautions
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is ill but improving!

2162-03-14 07:30:00 Physician Resident Progress Note
Chief Complaint: Obtundation, found down
   24 Hour Events:
   -was able to answer simple questions with "OK," "thanks," "[**Last Name (un) **]." etc.
   -got free water to correct hypernatremia
   -IJ pulled back 2 cm (was previously in RA)
   -started on amlodipine for htn to 180s
 PAN CULTURE - At [**2162-3-13**] 12:00 PM
 FEVER - 101.3
F - [**2162-3-13**] 12:00 PM
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2162-3-13**] 04:20 AM
   Ampicillin/Sulbactam (Unasyn) - [**2162-3-13**] 10:04 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-3-13**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-14**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.8
C (100.1
   HR: 81 (70 - 92) bpm
   BP: 166/89(114) {155/82(103) - 179/98(123)} mmHg
   RR: 18 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 102 kg
   Height: 72 Inch
    CVP: 6 (4 - 14)mmHg
   Total In:
                                                                  4,894 mL
                                                                      7 mL
   PO:
   TF:
   IVF:
                                                                  4,314 mL
                                                                      7 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    220 mL
   Urine:
                                                                  2,575 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,319 mL
                                                                   -213 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.48/37/86.[**Numeric Identifier 253**]/23/3
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, blood around mouth
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Diminished: mostly due to effort)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, Rash: stable on medial knees
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Not assessed, clonus in ankles bilaterally persists,
   babinski upgoing bilaterally in toes
   Labs / Radiology
   258 K/uL
   10.5 g/dL
   127 mg/dL
   3.0 mg/dL
   23 mEq/L
   3.6 mEq/L
   37 mg/dL
   115 mEq/L
   148 mEq/L
   30.6 %
   16.8 K/uL
        [image002.jpg]
                             [**2162-3-11**]  04:31 AM
                             [**2162-3-11**]  05:03 PM
                             [**2162-3-12**]  04:41 AM
                             [**2162-3-12**]  05:22 AM
                             [**2162-3-12**]  08:27 PM
                             [**2162-3-13**]  04:07 AM
                             [**2162-3-13**]  10:30 AM
                             [**2162-3-13**]  10:47 AM
                             [**2162-3-13**]  04:59 PM
                             [**2162-3-14**]  04:20 AM
   WBC
   14.8
   14.5
   16.8
   Hct
   31.4
   31.1
   30.6
   Plt
   [**Telephone/Fax (3) 4667**]
   Cr
   3.9
   3.8
   3.4
   3.4
   3.3
   3.0
   TCO2
   28
   29
   26
   28
   Glucose
   105
   100
   108
   137
   131
   127
   Other labs: PT / PTT / INR:15.8/27.5/1.4, CK / CKMB /
   Troponin-T:1249/113/<0.01, ALT / AST:815/95, Alk Phos / T Bili:80/0.7,
   Amylase / Lipase:158/54, Differential-Neuts:76.4 %, Band:0.0 %,
   Lymph:16.2 %, Mono:6.2 %, Eos:0.8 %, D-dimer:[**Numeric Identifier 4543**] ng/mL,
   Fibrinogen:455 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:637
   IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: Other Urine Chemistry:
   UreaN:679
   Creat:98
   Na:54
   K:25
   Cl:32
   Osmolal:410
   Imaging: IMPRESSION:
   1. Extensive areas of restricted diffusion involving the white matter,
   corpus callosum, both globus pallidus and right hippocampus indicative
   of
   acute infarct/ischemia likely due to global hypoxia.
   2. No evidence of midline shift or herniation.
   MRA OF THE HEAD:
    The head MRA demonstrates normal flow signal within the arteries of
   anterior
   and posterior circulation.
   IMPRESSION: Normal MRA of the head.
   Assessment and Plan
   27 y.o. male with hx of polysubstance abuse presenting with obtundation
   and respiratory failure.
   #) Anoxic brain injury: Seen by neurology who agree his picture is most
   consistent with anoxic brain injury and prognosis is not favorable.
   MRI also showed extensive areas of restricted diffusion consistent with
   this diagnosis.   Fortunately, was able to verbally respond to simple
   questions from family on afternoon of [**2162-3-13**].
   -f/u EEG
   -regular assessment of mental status
   #) Hypoxemic respiratory failure:  Most likely etiologies include
   aspiration pneumonitis vs PNA.  CXR currently resolving and patient is
   s/p extubation on [**2162-3-12**] and generally breathing comfortably.  Had
   [**Last Name (un) **]-[**Doctor Last Name **] respirations earlier today but now has normal breathing
   pattern.
   -Ampicillin-Sublactam for aspiration pneumonia for seven day course
   (day 1 = [**3-9**])
   #) Renal failure:  Secondary to rhabdo and ATN.  Creatinine falling.
   - renally dose meds
   - continue to monitor
   #) Fever: Concern for infection and culturing when patient spikes
   fevers.  Also may be related to serotonin syndrome, vasculitis,
   neurogenic fever, etc
  Fever curve trending down.
   -Monitor fever and leukocytosis curves.
   #) Skin: Rashes on medial knees appear most consistent with
   friction/pressure induced injury.  Vesicles could suggest herpes but
   are not typical and not particularly painful it seems.
   -f/u culture from vesicle
   #) Hypernatremia:  Likely secondary to insensible losses but may also
   be related to intracranial injury.  Free water deficit of 4.5 liters on
   [**2162-3-13**].
   - correct sodium with free water boluses, D5W by [**11-8**] mEq/day
   - check p.m. sodium level
   #)PPX: SC Heparin
   #) FEN: Tube feeds
   #) Code Status: Presumed full
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RHABDOMYOLYSIS
 POISONING / OVERDOSE, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2162-3-11**] 01:51 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2162-03-14 10:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2162-3-13**] 12:00 PM
 FEVER - 101.3
F - [**2162-3-13**] 12:00 PM
 CALLED OUT
   Self d/c'ed a.line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2162-3-13**] 04:20 AM
   Ampicillin/Sulbactam (Unasyn) - [**2162-3-14**] 09:41 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-3-13**] 04:00 PM
   Heparin Sodium - [**2162-3-14**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-14**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.7
C (99.8
   HR: 80 (65 - 90) bpm
   BP: 149/88(102) {148/78(94) - 158/88(102)} mmHg
   RR: 20 (8 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 102 kg
   Height: 72 Inch
   CVP: 7 (4 - 14)mmHg
   Total In:
                                                                  4,892 mL
                                                                  1,870 mL
   PO:
   TF:
   IVF:
                                                                  4,312 mL
                                                                  1,590 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                  1,100 mL
   Urine:
                                                                  2,575 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,317 mL
                                                                    770 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.48/37/86.[**Numeric Identifier 253**]/23/3
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Intermittently follows simple commands, answers yes/no
   questions, but unclear accuracy of responses
   [**Name (NI) 358**] / Radiology
   10.5 g/dL
   258 K/uL
   127 mg/dL
   3.0 mg/dL
   23 mEq/L
   3.6 mEq/L
   37 mg/dL
   115 mEq/L
   148 mEq/L
   30.6 %
   16.8 K/uL
        [image002.jpg]
                             [**2162-3-11**]  04:31 AM
                             [**2162-3-11**]  05:03 PM
                             [**2162-3-12**]  04:41 AM
                             [**2162-3-12**]  05:22 AM
                             [**2162-3-12**]  08:27 PM
                             [**2162-3-13**]  04:07 AM
                             [**2162-3-13**]  10:30 AM
                             [**2162-3-13**]  10:47 AM
                             [**2162-3-13**]  04:59 PM
                             [**2162-3-14**]  04:20 AM
   WBC
   14.8
   14.5
   16.8
   Hct
   31.4
   31.1
   30.6
   Plt
   [**Telephone/Fax (3) 4667**]
   Cr
   3.9
   3.8
   3.4
   3.4
   3.3
   3.0
   TCO2
   28
   29
   26
   28
   Glucose
   105
   100
   108
   137
   131
   127
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:15.8/27.5/1.4, CK / CKMB /
   Troponin-T:1249/113/<0.01, ALT / AST:815/95, Alk Phos / T Bili:80/0.7,
   Amylase / Lipase:158/54, Differential-Neuts:76.4 %, Band:0.0 %,
   Lymph:16.2 %, Mono:6.2 %, Eos:0.8 %, D-dimer:[**Numeric Identifier 4543**] ng/mL,
   Fibrinogen:455 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:637
   IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR ordered.
   Microbiology: No new micro data.
   Assessment and Plan
   27 y/o M admitted from detox unit with unknown drug overdose, seizures
   (LP neg), likely aspiration PNA with severe rhabdo from being down.
   Now with evidence of anoxic brain injury.  .
   #Anoxic brain injury: Waxing/[**Doctor Last Name 226**] responsiveness.
   -Continue to assess mental status, strict aspiration precautions
   -[**Last Name (un) **] [**Doctor Last Name **] breathing pattern, but no need for reintubation
   #Hypoxemic respiratory failure: Likely [**3-1**] aspiration PNA.
   - Continue Augmentin for aspiration PNA
 day [**6-6**].
   - Stable off vent.
   # Fever: Unclear etiology
 aspiration pneumonia/pneumonitis vs
   neurogenic.  No evidence of eosinophilia/drug rash.
   - Follow fever curve/ cultures
   # Renal failure: Likely [**3-1**] ATN/rhabdo
 improving.
   - Free water boluses to correct hypernatremia
   - Follow creatinine
   #Liver dysfunction: Presumed due to rhabo. Improving.
   - Follow.
   All other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2162-3-11**] 01:51 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes